US07662849B2
To a solution of 2(S)-(tert-butoxycarbonyl)amino-1-benzoxazol-2-ylpropan-1-ol (26.3 g, 86 mmol) in isopropanol (118 mL) at 20-25° C. was added trimethylchlorosilane (1.4 eq). The solution was stirred for 5 h at 50° C. Concentration of the reaction mixture to 52 mL followed by addition of isopropyl ether (210 mL), filtration and drying under vacuum afforded 2(S)-amino-1-benzoxazol-2-yl-butan-1-ol hydrochloride salt as a grey solid (16.4 g; yield=79%; mixture of diastereomers.

reactant | 2(S)-(tert-butoxycarbonyl)amino-1-benzoxazol-2-ylpropan-1-ol | 86 mmol, 26.3 g | C(C)(C)(C)OC(=O)N[C@H](C(O)C=1OC2=C(N1)C=CC=C2)C | C15H20N2O4
reactant | trimethylchlorosilane | 1.4 eq | C[Si](Cl)(C)C | C3H9ClSi
reactant | isopropyl ether | 210 mL | C(C)(C)OC(C)C | C6H14O
solvent | isopropanol | 118 mL | C(C)(C)O | C3H8O
product | 2(S)-amino-1-benzoxazol-2-yl-butan-1-ol hydrochloride salt | yield=79% | Cl.N[C@H](C(O)C=1OC2=C(N1)C=CC=C2)CC | InChI=1S/C11H14N2O2.ClH/c1-2-7(12)10(14)11-13-8-5-3-4-6-9(8)15-11;/h3-7,10,14H,2,12H2,1H3;1H/t7-,10?;/m0./s1
